US04259504
1-(p-Bromophenyl)-5-(p-nitrophenyl)-1H-1,2,4-triazole
To a solution of 12.1 g. of 4-bromophenylhydrazine hydrochloride in a mixture of 10.9 ml. of 5 N sodium hydroxide, 100 ml. of 30% aqueous acetic acid and 50 ml. of p-dioxane is added 10.0 g. of N-(dimethylaminomethylene)-p-nitrobenzamide. The procedure of Example 2 is followed, giving 12.7 g. of the desired product as tan crystals, mp. 142°-144° C.

reactant | 4-bromophenylhydrazine hydrochloride | Cl.BrC1=CC=C(C=C1)NN
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | N-(dimethylaminomethylene)-p-nitrobenzamide | CN(C)C=NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C10H11N3O3
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | 1-(p-Bromophenyl)-5-(p-nitrophenyl)-1H-1,2,4-triazole | BrC1=CC=C(C=C1)N1N=CN=C1C1=CC=C(C=C1)[N+](=O)[O-] | C14H9BrN4O2
